US08404687B2
(S)-tert-Butyl 2-ethyl-4-(4-(4-fluorophenyl)phthalazin-1-yl)piperazine-1-carboxylate
Heat a mixture of 1-chloro-4-(4-fluorophenyl)phthalazine (5.02 g, 19.4 mmol), (S)-tert-butyl 2-ethylpiperazine-1-carboxylate (5.00 g, 23.3 mmol) and K2CO3 (5.38 g, 38.9 mmol) in DMSO (75 mL) at 120° C. for 1 d. Pour the reaction mixture into water, rinsing with EtOAc. Extract with EtOAc. Wash the organic layer with water (2×), then brine, dry over Na2SO4, and concentrate under reduced pressure. Purify the resulting residue by flash silica gel chromatography (gradient of 20 to 80% EtOAc in hexanes) to provide the title compound (5.11 g, 60%). ES/MS m/z 437.2 (M+1).

reactant | 1-chloro-4-(4-fluorophenyl)phthalazine | 19.4 mmol, 5.02 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | (S)-tert-butyl 2-ethylpiperazine-1-carboxylate | 23.3 mmol, 5.00 g | C(C)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | K2CO3 | 38.9 mmol, 5.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
product | (S)-tert-Butyl 2-ethyl-4-(4-(4-fluorophenyl)phthalazin-1-yl)piperazine-1-carboxylate | 5.11 g, 60% | C(C)[C@@H]1N(CCN(C1)C1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C25H29FN4O2
